US08017611B2
3-(1,3-Benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine
3-(1,3-Benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (1.8 g) was added to a mixture of acetic acid (2.86 μL) and 37% aqueous formaldehyde (0.583 ml) dissolved in methanol (40 ml) and the resulting solution was stirred for 15 minutes. Sodium cyanoborohydride (0.377 g) was then added and the mixture was stirred for a further 3 hours. The reaction mixture was concentrated to dryness and diluted with DCM and purified by flash chromatography on silica gel (eluting with a gradient of 5 to 10% 7N methanolic ammonia in dichloromethane). The solvent was evaporated to dryness and there was thus obtained 3-(1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine (1.180 g); Mass Spectrum: M+H+ 375.1; RT 1.73 min; NMR Spectrum: (DMSOd6) 8.53 (d, 1H), 8.44 (d, 1H), 8.32 (d, 1H), 7.92 (d, 1H), 7.85 (m, 1H), 7.80 (m, 1H), 7.64 (br s, 2H), 7.46 (m, 2H), 4.13 (m, 1H), 2.88 (br m, 2H), 2.23 (s, 3H), 2.04 (m, 6H).

reactant | 3-(1,3-Benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 1.8 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C20H20N6O
reactant | acetic acid | 2.86 μL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 0.583 ml | C=O | CH2O
reactant | Sodium cyanoborohydride | 0.377 g | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 3-(1,3-Benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCN(CC2)C)N | C21H22N6O
